US06462035B1
11-BENZYL-5-DIFLUOROMETHOXY-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIENE (For leading references, see: Langlois, B. R. J. Fluorine Chem. 1988, 41, 247-262.)
11-Benzyl-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-5-ol (572 mg, 2.05 mmol) was stirred in dioxane (5 mL) and H2O (1 mL) at reflux under a balloon of freon (HCF2Cl). To this was added 3N KOH dropwise so as to maintain a pH˜12. The consumption of starting material was monitored by TLC for over 2 hours. The reaction was cooled, diluted with H2O (40 mL) and extracted with EtOAc. The organic layer was washed with a sat. aq. Na2CO3 soln. (25 mL) and brine (25 mL), dried (MgSO2), filtered and concentrated to an oil (620 mg, 92%). GCMS m/e 329 (M+).

reactant | 11-Benzyl-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-5-ol | 2.05 mmol, 572 mg | C(C1=CC=CC=C1)N1CC2CC=3C=C(C=CC3C(C1)C2)O | C19H21NO
reactant | H2O | 1 mL | O | H2O
reactant | HCF2Cl | C(F)(F)Cl | CHClF2
reactant | KOH | 3N | [OH-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 11-BENZYL-5-DIFLUOROMETHOXY-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIENE | C(C1=CC=CC=C1)N1CC2CC=3C=C(C=CC3C(C1)C2)OC(F)F | C20H21F2NO
